US07652015B2
Add Na2S2O4 (10 equiv.) and aqueous ammonia (3 mL/mmol, 32%) to a solution of (2,6-difluoro-phenyl)-[4-(3-methyl-5-nitro-pyridin-2-yl)-piperazin-1-yl]-methanone (3 g, 8.29 mmol) in THF/H2O (166 mL, 1:1). Stir for 30 min., then separate layers. Extract the aqueous layer with DCM, EtOAc and isopropyl alcohol/EtOAc. Combine organic layers and dry over Na2SO4, filter and remove solvent under reduced pressure. Subject crude to a Varian™ SCX column and wash the column with MeOH and then flush off the product with 2 M NH3 in MeOH to obtain 1.2 g of [4-(5-amino-3-methyl-pyridin-2-yl)-piperazin-1-yl]-(2,6-difluoro-phenyl)-methanone (44% yield). ES+(m/z): 333 [M+1]

reactant | Na2S2O4 | 10 equiv. | [O-]S(=O)S(=O)[O-].[Na+].[Na+]
reactant | ammonia | N | H3N
reactant | (2,6-difluoro-phenyl)-[4-(3-methyl-5-nitro-pyridin-2-yl)-piperazin-1-yl]-methanone | 8.29 mmol, 3 g | FC1=C(C(=CC=C1)F)C(=O)N1CCN(CC1)C1=NC=C(C=C1C)[N+](=O)[O-] | C17H16F2N4O3
solvent | THF H2O | 166 mL | C1CCOC1.O
product | [4-(5-amino-3-methyl-pyridin-2-yl)-piperazin-1-yl]-(2,6-difluoro-phenyl)-methanone | 1.2 g, 44% yield | NC=1C=C(C(=NC1)N1CCN(CC1)C(=O)C1=C(C=CC=C1F)F)C | C17H18F2N4O
